US08211908B2
To a solution of 0.26 g of 3-methyl-1,5-naphthyridine in 4 mL of benzene, 0.35 g of N-bromosuccinimide and 29 mg of azobisisobutyronitrile were added, and the mixture was heated under reflux while stirring for 2 hours 15 minutes. Thereto was further added 0.13 g of N-bromosuccinimide, and the mixture was heated under reflux while stirring for 30 minutes. After cooling to room temperature, a solution of 0.50 g of hexamethylenetetramine in 1.5 mL of water was dropped to the reaction mixture under cooling with ice, thereto was added 1.5 mL of acetic acid, and the mixture was heated under reflux while stirring for 1 hour 20 minutes. After cooling to room temperature, chloroform and a 20% aqueous sodium hydroxide solution were added to the reaction mixture and the mixture was adjusted to pH 8.5. The organic layer was separated, and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant solution was washed with water and a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the resultant residue was purified by flash silica gel column chromatography using an eluent of hexane:ethyl acetate=1:1 to obtain 25 mg of 1,5-naphthyridine-3-carbaldehyde as a slightly yellow solid.

reactant | 3-methyl-1,5-naphthyridine | 0.26 g | CC=1C=NC2=CC=CN=C2C1 | C9H8N2
reactant | N-bromosuccinimide | 0.35 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 29 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | N-bromosuccinimide | 0.13 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | hexamethylenetetramine | 0.50 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | benzene | 4 mL | C1=CC=CC=C1 | C6H6
solvent | water | 1.5 mL | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 1.5 mL | C(C)(=O)O | C2H4O2
product | 1,5-naphthyridine-3-carbaldehyde | 25 mg | N1=CC(=CC2=NC=CC=C12)C=O | C9H6N2O
